US06649633B2
To a stirred mixture of 1.56 g (6.5 mmol.) 4-formyl-biphenyl-3-carboxylic acid methyl ester in 30 mL methanol at 0° C. was added 307 mg (8.1 mmol.) sodium borohydride. The mixture was stirred at 0° C. for 1 hour, then quenched with saturated ammonium chloride solution. The mixture was poured into water and extracted with ethyl acetate. The ethyl acetate extracts were combined, washed successively with water, brine then dried (MgSO4) and concentrated in vacuo to yield an oil. Chromatography on Silica Gel eluting with ethyl acetate/hexanes (1:5) afforded 1.5 g 4′-hydroxymethyl-biphenyl-3-carboxylic acid methyl ester as an oil.

reactant | 4-formyl-biphenyl-3-carboxylic acid methyl ester | 6.5 mmol, 1.56 g | COC(=O)C=1C=C(C=CC1C=O)C1=CC=CC=C1 | C15H12O3
reactant | sodium borohydride | 8.1 mmol, 307 mg | [BH4-].[Na+]
reactant | methanol | 30 mL | CO | CH4O
product | 4′-hydroxymethyl-biphenyl-3-carboxylic acid methyl ester | 1.5 g | COC(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)CO | C15H14O3
